US04321372
4,5-Dimethylthiazol-2-ylcarbamoylcarboxylic Acid
Ethyl 4,5-dimethylthiazol-2-ylcarbamoylcarboxylate (1.2 g., 5.26 mmole) was slurried in 40 ml. of water. Potassium carbonate (1 N, 5.3 ml., 2.65 mmoles) was added and the mixture heated on a steam bath for 5 minutes, yielding a clear solution. The reaction mixture was cooled in an ice-water bath and 6 ml. of 1 N hydrochloric acid added. The precipitated crude product was recovered by filtration (933 mg.). Recrystallization from acetic acid gave purified 4,5-dimethylthiazol-2-ylcarbamoylcarboxylic acid [652 mg.; m.p. 235°-236° C. (dec.)].

reactant | Ethyl 4,5-dimethylthiazol-2-ylcarbamoylcarboxylate | 5.26 mmole, 1.2 g | CC=1N=C(SC1C)NC(=O)C(=O)OCC | C9H12N2O3S
reactant | Potassium carbonate | 2.65 mmoles, 1 N, 5.3 ml | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | water | O | H2O
product | 4,5-Dimethylthiazol-2-ylcarbamoylcarboxylic Acid | CC=1N=C(SC1C)NC(=O)C(=O)O | C7H8N2O3S
